US05624935
3-Amino-2-(4-chlorobenzyl)aminopyridine
A procedure similar to that described in Preparation 42 was repeated, except that 5.00 g of 2-(4-chlorobenzyl) amino-3-nitropyridine (prepared as described in Preparation 52), 21.4 g of tin(II) chloride dihydrate, 0.36 g of sodium borohydride and 150 ml of a 9:1 by volume mixture of ethyl acetate and 2-methyl-2-propanol were used, to give the title compound as a crude product. This crude product was crystallized by trituration with a mixture of ethyl acetate and hexane, to give 3.55 g of the title compound, melting at 123°-125° C.

reactant | 2-(4-chlorobenzyl) amino-3-nitropyridine | 5.00 g | ClC1=CC=C(CNC2=NC=CC=C2[N+](=O)[O-])C=C1 | C12H10ClN3O2
reactant | tin(II) chloride dihydrate | 21.4 g | O.O.[Sn](Cl)Cl
reactant | sodium borohydride | 0.36 g | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-methyl-2-propanol | CC(C)(C)O | C4H10O
product | 3-Amino-2-(4-chlorobenzyl)aminopyridine | NC=1C(=NC=CC1)NCC1=CC=C(C=C1)Cl | C12H12ClN3
